US08044052B2
(3-Bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methanol
To a solution of 3-bromo-5-(hydroxymethyl)phenol (3.0 g, 14.77 mmol) in DMF (15 mL) under a N2 atmosphere was added potassium carbonate (4.08 g, 29.55 mmol) and the mixture was stirred for 20 min. 2-Chloro-5-(trifluoromethyl)pyridine (2.68 g, 14.77 mmol) was added at RT and then the reaction was refluxed at 110° C. overnight. The reaction mixture was cooled and water was added. The mixture was extracted with ethyl acetate three times. The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness to give the title compound (5.5 g) which was used in the next step without purification. 1H NMR (500 MHz, CDCl3): δ 8.44 (s, 1H), 7.92 (d, J=8.5 Hz, 1H), 7.41 (s, 1H), 7.24 (s, 1H), 7.19 (s, 1H), 7.04 (d, J=9 Hz, 1H), 4.71 (s, 2H); m/z (348, 349.9, M+H+).

reactant | 3-bromo-5-(hydroxymethyl)phenol | 14.77 mmol, 3.0 g | BrC=1C=C(C=C(C1)CO)O | C7H7BrO2
reactant | potassium carbonate | 29.55 mmol, 4.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloro-5-(trifluoromethyl)pyridine | 14.77 mmol, 2.68 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (3-Bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methanol | 5.5 g | BrC=1C=C(C=C(C1)OC1=NC=C(C=C1)C(F)(F)F)CO | C13H9BrF3NO2
